US07884109B2
3-(2-Bromo-4,5-difluorophenoxy)propanoic acid.
A solution of 1.68 g of NaOH (42 mmol) in 5 mL of water was added slowly to the suspension of 2.29 mL (20 mmol) 2-bromo-4,5-difluorophenol and 3.07 g (20 mmol) 3-bromopropionic acid. The mixture was heated at 100° C. in an oil bath for 5 hours, and then allowed to cool to room temperature. Water was added to completely dissolve any solid material and the reaction mixture was made acidic with concentrated HCl. The product was extracted into ether (3 times), and the combined organic layers was dried over Na2SO4 and evaporated to give 3.7 g (66%) of the title compound as a light brown solid. 1H NMR (300 MHz, CDCl3): δ 7.4 (t, 1H), 6.8 (q, 1H), 4.3 (t, 2H), 2.9 (t, 2H).

reactant | NaOH | 42 mmol, 1.68 g | [OH-].[Na+]
reactant | 2-bromo-4,5-difluorophenol | 20 mmol, 2.29 mL | BrC1=C(C=C(C(=C1)F)F)O | C6H3BrF2O
reactant | 3-bromopropionic acid | 20 mmol, 3.07 g | BrCCC(=O)O | C3H5BrO2
reactant | HCl | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 3-(2-Bromo-4,5-difluorophenoxy)propanoic acid | 3.7 g, 66% | BrC1=C(OCCC(=O)O)C=C(C(=C1)F)F | C9H7BrF2O3
